US06537948B1
2.81 g of 3-chloroperoxybenzoic acid was added to a solution of 1.40 g of 6-methoxy-4-{1-(methoxycarbonyl)ethoxy}-2-methylthiopyrimidine in 13 ml of chloroform at 0° C. The mixture was stirred at room temperature for 3 hours, then 30 ml of saturated aqueous sodium thiosulfate solution was added to the mixture. The mixture was poured into saturated aqueous sodium bicarbonate solution, extracted with chloroform, the organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated, then, the resulted residue was subjected to silica gel chromatography to obtain 1.62 g of 6-methoxy-4-{1-(methoxycarbonyl)ethoxy}-2-methylsulfonylpyrimidine.

reactant | 3-chloroperoxybenzoic acid | 2.81 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 6-methoxy-4-{1-(methoxycarbonyl)ethoxy}-2-methylthiopyrimidine | 1.40 g | COC1=CC(=NC(=N1)SC)OC(C)C(=O)OC | C10H14N2O4S
reactant | sodium thiosulfate | 30 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 13 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-methoxy-4-{1-(methoxycarbonyl)ethoxy}-2-methylsulfonylpyrimidine | 1.62 g | COC1=CC(=NC(=N1)S(=O)(=O)C)OC(C)C(=O)OC | C10H14N2O6S
